US05352792
To a suspension of 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-cyclopentyloxyiminoacetamido]-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester (258 mg: 0.304 mMol.) in a mixture of anisole (1 ml) and nitromethane (4 ml) at -30° C. is added a solution of aluminum chloride (0.25 g: 1.88 mMol.) in anisole (1 ml), and the mixture is stirred for 50 minutes. The reaction mixture is diluted with ethanol (2 ml), stirred at the same temperature for 5 minutes, mixed with 1N-hydrochloric acid (4 ml) and water (200 ml), and stirred at room temperature for 5 minutes. The aqueous layer is taken, washed with ethyl acetate, concentrated under reduced pressure to remove remaining organic solvents, and subjected to chromatography over styrene-divinylbenzene copolymer (methanol : water=4:1) to give 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-cyclopentyloxyiminoacetamido]-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid (93 mg) as white solid. Yield: 53%.

reactant | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-cyclopentyloxyiminoacetamido]-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester | 0.304 mMol, 258 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OC2CCCC2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)SCSC=2N=NNC2 | C38H40N8O7S4
reactant | aluminum chloride | 1.88 mMol, 0.25 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 4 ml | Cl | ClH
reactant | water | 200 ml | O | H2O
solvent | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | nitromethane | 4 ml | [N+](=O)([O-])C | CH3NO2
solvent | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-cyclopentyloxyiminoacetamido]-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid | 93 mg, Yield: 53% | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCSC=2N=NNC2)C(=O)O)C1=O)=N/OC1CCCC1 | C20H22N8O5S4
